US04863504
Preparation of (E)-2-[1-(3-chloro-2-propenyloxyimino)propyl]-5-(1,3-dimethyl-1H-pyrazol-5-yl)cyclohexane-1,3-dione (Compound No. 4)
To 10 ml of a solution of 5.60 g (21.3 mmols) of 5-(1,3-dimethyl-1H-pyrazol-5-yl)-2-propionylcyclohexane-1,3-dione in methanol was added 57 ml (21.7 mmols) of 0.38 mol ethanolic solution of (E)-3-chloro-2-propenyloxyamine. The mixture was reacted for 10 hours with stirring. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 6.84 g of the product.

reactant | 5-(1,3-dimethyl-1H-pyrazol-5-yl)-2-propionylcyclohexane-1,3-dione | 21.3 mmols, 5.60 g | CN1N=C(C=C1C1CC(C(C(C1)=O)C(CC)=O)=O)C | C14H18N2O3
reactant | (E)-3-chloro-2-propenyloxyamine | Cl/C=C/CON | C3H6ClNO
solvent | methanol | CO | CH4O
product | (E)-2-[1-(3-chloro-2-propenyloxyimino)propyl]-5-(1,3-dimethyl-1H-pyrazol-5-yl)cyclohexane-1,3-dione | 6.84 g | ClC=CCO\N=C(/CC)\C1C(CC(CC1=O)C1=CC(=NN1C)C)=O | C17H22ClN3O3
